US08217064B2
Diethyl malonate (9.8 g, 1.1 eq) was added to a stirred suspension of sodium hydride (60% in mineral oil, 2.09 g) in DMF (88 mL) over 15 min. at 0° C. under nitrogen. The reaction mixture was allowed to warm to room temperature and stirred for 1 h. A solution of 2-cyclopropylmethoxy-4-fluoro-1-nitrobenzene (10 g, 1 eq) in DMF (88 mL) was added drop wise at 0° C., and the reaction mixture was heated to 100° C. for 3 h. The reaction mixture was allowed to cool to room temperature, poured into ice water and extracted with EtOAc (3×100 mL). The combined organic phases were washed with water (3×100 mL) and brine (100 mL), dried (MgSO4) and filtered. Evaporation of the volatiles under reduced pressure gave 10.0 g of crude product which was purified by chromatography over silica gel (hexane/EtOAc) gave of diethyl 2-(3-(cyclopropylmethoxy)-4-nitrophenyl)malonate (7.0 g). 1H-NMR (CDCl3, 200 MHz): 0.4 (m, 2H), 0.71 (m, 2H), 1.3 (m, 1H), 1.3 (t, 6H), 3.96 (d, 2H), 4.25 (q, 4H), 4.5 (s, 1H), 7.02 (d, 1H), 7.18 (s, 1H), 7.81 (d, 2H).

reactant | Diethyl malonate | 9.8 g, 1.1 eq | C(CC(=O)OCC)(=O)OCC | C7H12O4
reactant | sodium hydride | 2.09 g | [H-].[Na+]
reactant | 2-cyclopropylmethoxy-4-fluoro-1-nitrobenzene | 10 g, 1 eq | C1(CC1)COC1=C(C=CC(=C1)F)[N+](=O)[O-] | C10H10FNO3
solvent | DMF | 88 mL | CN(C)C=O | C3H7NO
solvent | DMF | 88 mL | CN(C)C=O | C3H7NO
product | diethyl 2-(3-(cyclopropylmethoxy)-4-nitrophenyl)malonate | 7.0 g | C1(CC1)COC=1C=C(C=CC1[N+](=O)[O-])C(C(=O)OCC)C(=O)OCC | C17H21NO7
